US05461036
To 2-bromododecanoic acid (1 g), after having been dissolved in acetonitrile (50 ml ), were added calcium chloride (2 g) and tetraethylammonium chloride (1 g), and the mixture was heated under reflux for 4 hours. The reaction mixture was filtered, concentrated and distributed into ethyl acetate and water, and the ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated to give 2-chlorododecanoic acid.

reactant | 2-bromododecanoic acid | 1 g | BrC(C(=O)O)CCCCCCCCCC | C12H23BrO2
reactant | calcium chloride | 2 g | [Cl-].[Ca+2].[Cl-]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | tetraethylammonium chloride | 1 g | [Cl-].C(C)[N+](CC)(CC)CC
product | 2-chlorododecanoic acid | ClC(C(=O)O)CCCCCCCCCC | C12H23ClO2
